US06503935B1
4-(5-nitro-3,4-dihydro-1-naphthalenyl)-1H-imidazole
A solution of 4-iodo-1-trityl-1H-imidazole (5.5 g, 13 mmol) (prepared as described by Kirk, K. J. Heterocyclic Chem. (1985), 22, 57-59) in dichloromethane (50 mL) was treated with ethylmagnesium bromide (3.0 M in diethyl ether, 4.2 mL) over 4 minutes, stirred for 30 minutes, treated with 5-nitrotetralone (prepared as described by Zhang, M J. Amer. Chem. SoC, (1994), 116, 4852-4857), stirred for 6 hours, treated with ammonium chloride solution (50 mL) and extracted with a mixture of diethyl ether (300 mL) and ethyl acetate (50 mL). The organic layer was isolated, treated with dichloromethane (500 mL) to dissolve the product which started to crystallize, dried (MgSO4), filtered, concentrated, treated with trifluoroacetic acid (80 mL), stirred for 48 hours, concentrated to an oil, neutralized with sodium bicarbonate solution and extracted twice with dichloromethane. The combined dichloromethane layers were dried (MgSO4), filtered and concentrated. The residue was purified on silica gel with a gradient of 5%-10% methanol/dichloromethane to provide the desired compound.

reactant | 4-iodo-1-trityl-1H-imidazole | 13 mmol, 5.5 g | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethylmagnesium bromide | 3.0 M, 4.2 mL | C(C)[Mg]Br
reactant | 5-nitrotetralone | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)=O | C10H9NO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-(5-nitro-3,4-dihydro-1-naphthalenyl)-1H-imidazole | [N+](=O)([O-])C1=C2CCC=C(C2=CC=C1)C=1N=CNC1 | C13H11N3O2
